US05234900
Step A: 7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid, methyl ester (exo and endo, racemic)
To a mixture of 93.0 g (1.37 mmol) of furan and 0.50 g (8.6 mmol) of propylene oxide was added 47.0 g (0.52 mmol) acryloyl chloride at ambient temperature. The mixture was stirred under a nitrogen atmosphere for tree days in the dark. The mixture was then added to a solution of 45.0 ml (0.556 mol) pyridine and 45.0 ml of methanol in 100 ml methylene chloride at 0° C. The mixture was warmed to ambient temperature after the addition was complete. After 1 hour, water was added to the mixture and the layers were separated. The aqueous layer was extracted two times with methylene chloride. The combined organic layers were washed with water, brine and dried over magnesium sulfate and concentrated in vacuo to yield 66.3 g of dark oil containing a 2:1 ratio of exo:endo isomers. Flash chromatography of 4.0 g in 20:1 hexanes:ethyl acetate on 320 g of silica gel separated the endo and exo isomers.

reactant | furan | 1.37 mmol, 93.0 g | O1C=CC=C1 | C4H4O
reactant | propylene oxide | 8.6 mmol, 0.50 g | C1C(C)O1 | C3H6O
reactant | acryloyl chloride | 0.52 mmol, 47.0 g | C(C=C)(=O)Cl | C3H3ClO
reactant | pyridine | 0.556 mol, 45.0 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | 45.0 ml | CO | CH4O
product | 7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid, methyl ester | C12C(CC(C=C1)O2)C(=O)OC | C8H10O3
